US05516931
2,6-Dimethylphenyl pentafluorobenzyl ether:
A mixture of 2,6-dimethylphenol (5 mmol), pentafluorobenzyl bromide (1.3 g, 5 mmol), potassium carbonate (5 g), acetone (30 ml), and 18-crown-6 ether (0.1 g) were stirred under reflux for 5 hours. Work-up procedure was the same as above. Yield: 96%; m.p.: 81°-82° C.; 1H NMR, δ: 2.37 (s, 6H, CH3), 4.91 (s, 2H, CH2O), 6.96-7.16 (m, 3H, H-Ar) ppm; 13C NMR, δ: 15.7 (CH3), 59.9 (CH2O), 110.7 (C1', 2JC-F =18 Hz), 124.6 (C4), 129.0 (C3 & C5), 131.1 (C2 & C6), 137.6 (C2' & C6', JC-F =253 Hz), 141.7 (C4', JC-F =255 Hz), 145.9 (C3' & C5', JC-F =250 Hz ), 154.6 (C1) ppm.

reactant | 2,6-dimethylphenol | 5 mmol | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | pentafluorobenzyl bromide | 5 mmol, 1.3 g | FC1=C(C(=C(C(=C1CBr)F)F)F)F | C7H2BrF5
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 ether | 0.1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 2,6-Dimethylphenyl pentafluorobenzyl ether | Yield: 96% | FC1=C(C(=C(C(=C1COC1=C(C=CC=C1C)C)F)F)F)F | C15H11F5O
